US04916145
A suspension of 5.0 g of biphenyl-4-carboxylic acid in 20 mL of dichloromethane and 0.5 mL of DMF was treated with 2.1 mL of thionyl chloride and the resulting mixture was heated to reflux until a clear solution was obtained. The mixture was cooled to room temperature and 7.8 g of 3-pyridinebutanamine was slowly added. The reaction mixture was stirred for 10 minutes. was diluted with 150 mL of dichloromethane and was washed with 50 mL of 1N sodium hydroxide. The organic layer was dried over potassium carbonate and evaporated and the residue was crystallized from ethyl acetate-hexane with a charcoal treatment to yield 5.0 g (61%) of N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-carboxamide, mp 122.5°-126° C. The hydrochloride salt was recrystallized from isopropanol-ether, mp 158°-160° C.

reactant | biphenyl-4-carboxylic acid | 5.0 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | thionyl chloride | 2.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-pyridinebutanamine | 7.8 g | N1=CC(=CC=C1)CCCCN | C9H14N2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-[4-(3-pyridinyl)butyl][1,1'-biphenyl]-carboxamide | 5.0 g, 61% | N1=CC(=CC=C1)CCCCNC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C22H22N2O
